US09126906B2
A 1.0M t-BuOK solution in 2-methyl-2-propanol (0.220 mL, 0.220 mmol) was diluted into 2-propanol (12 mL). To the resulting solution was added RuCl(p-cymene)[(S,S)-Ts-DPEN] (28 mg, 0.044 mmol) and 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanone (1.2 g, 4.4 mmol). The mixture was hydrogenated at 50° C. under 450 psig hydrogen gas for 16 h. Then, the mixture was evaporated. The residue was dissolved in CH2Cl2 (50 mL), and this solution was washed with 1N NaOH (2×50 mL), water (50 mL) and brine (50 mL). The organic phase was evaporated and the residue was loaded directly onto a silica gel column, using a hexanes-ethyl acetate gradient. The appropriate fractions were pooled and evaporated. The residue was slurried with MTBE (20 mL) for 1 h and filtered. The filter was washed with MTBE (5 mL) and the solids were dried under vacuum to afford (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol as a white solid (0.63 g, 52% yield); achiral HPLC (Hypersil BDS C8, 5.0 μm, 250×4.6 mm, 1.5 mL/min, 278 nm, 90/10 gradient to 80/20 0.1% aqueous TFA/MeOH over 10 min then gradient to 10/90 0.1% aqueous TFA/MeOH over the next 15 min): 11.38 (99.7%); chiral HPLC (Chiralpak AD-H 5.0 μm Daicel, 250×4.6 mm, 1.0 mL/min, 280 nm, 85:15 heptane-i-PrOH): 17.77 (9.1%), 20.14 (90.9%).

reactant | t-BuOK | 1.0M | CC(C)(C)[O-].[K+]
reactant | 2-methyl-2-propanol | 0.220 mmol, 0.220 mL | CC(C)(C)O | C4H10O
reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanone | 4.4 mmol, 1.2 g | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)=O | C12H16O5S
reactant | hydrogen | [H][H] | H2
catalyst | RuCl(p-cymene)[(S,S)-Ts-DPEN] | 0.044 mmol, 28 mg | CC1=CC=C(C=C1)C(C)C.CC1=CC=C(C=C1)S(=O)(=O)[N-][C@@H](C2=CC=CC=C2)[C@H](C3=CC=CC=C3)N.Cl[Ru+]
solvent | 2-propanol | 12 mL | CC(C)O | C3H8O
product | (R)-1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethanol | 0.63 g, 52% yield | C(C)OC=1C=C(C=CC1OC)[C@H](CS(=O)(=O)C)O | C12H18O5S
